US07700638B2
3-(3-Phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester
Methyl acrylate (2.7 ml, 30 mmol), 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (3.48 g, 10 mmol), triethylamine (2.79 ml, 20 mmol), palladium acetate (45 mg, 0.2 mmol), tri-o-tolylphosphine (161 mg, 0.53 mmol) and acetonitrile (50 ml) were combined and the mixture heated at reflux under an argon atmosphere for 17 h. The mixture was cooled, filtered through Dicalite and the filtrate was concentrated under reduced pressure. Crystals formed and were isolated by filtration and dried to give the title compound (3.2 g, 92%), m/z 347.0 (M+H)+.

reactant | Methyl acrylate | 30 mmol, 2.7 ml | C(C=C)(=O)OC | C4H6O2
reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 10 mmol, 3.48 g | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | triethylamine | 20 mmol, 2.79 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.2 mmol, 45 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.53 mmol, 161 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-(3-Phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester | 3.2 g, 92% | COC(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C18H13F3N2O2
